US04503243
2,4,8,10-Tetra-t-butyl-6,6,12-trimethyl-12H-dibenzo[d,g][1,3,2]dioxasilocin
Utilizing the procedure of Example 1, this compound is prepared from 25.8 grams (0.20 mole) of dichlorodimethylsilane, 87.7 grams (0.20 mole) of 2,2'-ethylidene-bis(4,6-di-t-butylphenol) and 40.5 grams (0.40 mole) of triethylamine. Recrystallization from acetonitrile-toluene yields 77.7 g (79% yield) of product as white needles, mp 171°-177° C.

reactant | dichlorodimethylsilane | 0.20 mole, 25.8 grams | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | 2,2'-ethylidene-bis(4,6-di-t-butylphenol) | 0.20 mole, 87.7 grams | C(C)(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C30H46O2
reactant | triethylamine | 0.40 mole, 40.5 grams | C(C)N(CC)CC | C6H15N
product | 2,4,8,10-Tetra-t-butyl-6,6,12-trimethyl-12H-dibenzo[d,g][1,3,2]dioxasilocin | 77.7 g, 79% yield | C(C)(C)(C)C1=CC2=C(O[Si](OC3=C(C2C)C=C(C=C3C(C)(C)C)C(C)(C)C)(C)C)C(=C1)C(C)(C)C | C32H50O2Si
